US07067506B2
Step 2: 4-Benzyloxymethyl-2-methoxy-phenylamine.
A solution of 4-nitro-3-methoxybenzylbenzyl ether (2.2 g, 8.1 mmol) and ammonium acetate (2.46 g, 32 mmol, 4 eq.) in 30 mL MeOH was stirred at 0° C. and 1.3 g (20 mmol, 2.5 eq.) of zinc dust was added in several portions. After 1 h, the reaction mixture was partitioned between 40 mL water and 40 mL ethyl acetate. The organic phase was dried over MgSO4 and concentrated. The residue was used directly in next step without further purification. 1H NMR (400 MHz, CDCl3): δ7.35 (m, 5H), 6.82 (s, 1H), 6.77 (d, J=6.3 Hz, 1H). 6.67 (d, J=7.8 Hz, 1H), 4.51 (s, 2H), 4.45 (s, 2H), 3.85 (s, 3H), 3.79 (s, 2H). MS ESI-pos, M+1=244.2.

reactant | 4-nitro-3-methoxybenzylbenzyl ether | 8.1 mmol, 2.2 g | [N+](=O)([O-])C1=C(C=C(CC(C2=CC=CC=C2)OC(C2=CC=CC=C2)CC2=CC(=C(C=C2)[N+](=O)[O-])OC)C=C1)OC | C30H28N2O7
reactant | ammonium acetate | 32 mmol, 2.46 g, 4 eq. | C(C)(=O)[O-].[NH4+]
solvent | MeOH | 30 mL | CO | CH4O
catalyst | zinc | 20 mmol, 1.3 g, 2.5 eq. | [Zn] | Zn
product | 4-Benzyloxymethyl-2-methoxy-phenylamine | C(C1=CC=CC=C1)OCC1=CC(=C(C=C1)N)OC | C15H17NO2
